US04080463
4-(2-Benzoyloxy-3-tert.butylaminopropoxy)-3-chloro-2-methyl-indole [process b)]
3.1 g of 1-tert.butylamino-3-(3-chloro-2-methyl-indol-4-yloxy)-2-propanol, 6.1 g of benzoic acid and 12 ml of hexamethyl phosphoric acid triamide are heated on a steam bath until all of the benzoic acid is dissolved. After cooling to room temperature, 2.9 g of benzoic acid anhydride are added and stirring is effected for 15 hours. The resulting clear yellow solution is poured onto ice, 250 ml of ether are added and stirring effected for 1 hour. After making the liquid alkaline with concentrated ammonia, the ether phase is separated, shaken out with tartaric acid, made alkaline while cooling with ice, with concentrated ammonia and extracted with methylene chloride. After evaporating the methylene chloride, the residual title compound is crystallised with 1 mol of malonic acid from tetrahydrofuran and ether. M.p. of hydrogen malonate form: 176°-177°.

reactant | 1-tert.butylamino-3-(3-chloro-2-methyl-indol-4-yloxy)-2-propanol | 3.1 g | C(C)(C)(C)NCC(COC1=C2C(=C(NC2=CC=C1)C)Cl)O | C16H23ClN2O2
reactant | benzoic acid | 6.1 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | benzoic acid anhydride | 2.9 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | ammonia | N | H3N
reactant | malonic acid | 1 mol | C(CC(=O)O)(=O)O | C3H4O4
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | hexamethyl phosphoric acid triamide | 12 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-(2-Benzoyloxy-3-tert.butylaminopropoxy)-3-chloro-2-methyl-indole | C(C1=CC=CC=C1)(=O)OC(COC1=C2C(=C(NC2=CC=C1)C)Cl)CNC(C)(C)C | C23H27ClN2O3
